US07612114B2
6-{6-[Ethyl(4-piperidin-4-ylbenzyl)amino]benzo[1,3]dioxol-5-yl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-(6-ethylaminobenzo[1,3]dioxol-5-yl)-5,6,7,8-tetrahydronaphthalen-2-yl ester (40 mg) and 4-(4-carboxyphenyl)piperidine-1-carboxylic acid tert-butyl ester (60 mg) according to an analogous synthetic method to Example 209, the title compound (20 mg) was obtained.

reactant | pivalic acid 6-(6-ethylaminobenzo[1,3]dioxol-5-yl)-5,6,7,8-tetrahydronaphthalen-2-yl ester | 40 mg | C(C)NC=1C(=CC2=C(OCO2)C1)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C24H29NO4
reactant | 4-(4-carboxyphenyl)piperidine-1-carboxylic acid tert-butyl ester | 60 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)C(=O)O | C17H23NO4
product | 6-{6-[Ethyl(4-piperidin-4-ylbenzyl)amino]benzo[1,3]dioxol-5-yl}-5,6,7,8-tetrahydronaphthalen-2-ol | 20 mg | C(C)N(C=1C(=CC2=C(OCO2)C1)C1CC=2C=CC(=CC2CC1)O)CC1=CC=C(C=C1)C1CCNCC1 | C31H36N2O3
